Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Falling hematocrit
 
Major Surgical or Invasive Procedure:
None this admission
 
History of Present Illness:
___ yo gentleman who is s/p exploratory
laparotomy and ___ patch for perforated duodenal ulcer on
___. He was discharged to a rehab facility on ___ and at
that time he was stable and doing well. This morning his Hct was
noted to be 21 at the outside facility and for this reason he 
was
referred to the ___ ED. 
Here the patient appears to be comfortable, his only complaint 
is
that he hasn't gotten his energy back since the operation. 
He denies feeling dizzy or lightheaded. He does not remember
having melanotic stool since discharge and his family (who is
here with him and interprets for him) has not had any report of
BRBPR or melena from the nurse that took care of him at rehab. 
He
denies fevers, chills, nausea or vomiting.
In the ED a rectal exam was performed and he was noted to have
melanotic stool. The patient also had a formed bowel movement
while in the ED which was per report dark brown, not black, and
no bright red blood was noted. 

 
Past Medical History:
1) Hypertension
2) Endovascular stent repair of AAA ___
3) R eye cataract extraction ___ R eye ptegygium removal ___ L eye cataract extraction ___

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Upon presentation:
Vitals:97.6 57 129/50 14 99%  
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, midline surgical incision
with staples in place, c/d/i, no discharge or erythema. DRE:
performed by ED physician: normal tone, positive for melanotic
stool, guiac positive.
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 11:14PM   WBC-9.9 RBC-2.62* HGB-7.9* HCT-24.4* MCV-93 
MCH-30.0 MCHC-32.2 RDW-14.0
___ 01:35PM   GLUCOSE-78 UREA N-28* CREAT-1.2 SODIUM-141 
POTASSIUM-3.6 CHLORIDE-105 TOTAL CO2-25 ANION GAP-15
___ 01:41PM   HGB-8.0* calcHCT-24
___ 07:20AM BLOOD WBC-9.3 RBC-2.72* Hgb-8.0* Hct-25.1* 
MCV-92 MCH-29.4 MCHC-31.9 RDW-14.1 Plt ___
 
Brief Hospital Course:
He was admitted back to the hospital from the rehab facility 
with concern for low hematocrit (21). His hemodynamics and 
hematocrits were monitored very closely here in the hospital - 
initial Hct reading in the ED was 24.7. Subsequent values were 
24.4 and 25.1 on ___ at 7:20 a.m. There have been no episodes 
of melena or hematemesis; it should be noted that he has tested 
guaiac positive and this was noted on his previous admission 
when he presented with the perforated duodenal ulcer. He is on a 
PPI and is also continuing his treatment for H. pylori through 
___. 

Hemodynamically he has been stable as well with blood pressures 
ranging in 120's-130's range and no tachycardia. His heart rate 
has actually ran on lower side. His PCP was contacted regarding 
this and endorses that patient has been noted to be bradycardic 
during previous office visits. 

He is being discharged back to rehab and should follow up in 
Acute Care Surgery clinic next week.

 
Medications on Admission:
lisinopril/HCTZ ___ daily  
ASA 81  
Prevpac  
flomax 0.4 qhs  
oxycodone 5 q4h prn  

 
Discharge Medications:
1. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
2. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
3. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) Neb Inhalation Q6H (every 6 hours) as 
needed for wheezing.  
4. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q4H (every 4 hours) 
as needed for pain.  
5. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
6. amoxicillin 250 mg/5 mL Suspension for Reconstitution Sig: 
1,000 MG PO Q12H (every 12 hours): stop date ___.  
7. clarithromycin 250 mg/5 mL Suspension for Reconstitution Sig: 
Five Hundred (500) MG PO Q12H (every 12 hours): stop date 
___.  
8. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  
9. senna 8.6 mg Tablet Sig: ___ Tablets PO twice a day as needed 
for constipation.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Anemia

Secondary diagnoses:
Perforated duodenal ulcer
H. Pylori
 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Level of Consciousness: Alert and interactive.
 
Discharge Instructions:
You were admitted back to the hospital for bleeding concerns 
related to a low hematocrit. Your vital signs and blood counts 
were followed closeley and remained stable during your hopsital 
stay. You are now being discharged back to rehab to continue 
with your physical and occupational therapy.
 
Followup Instructions:
___